US05633233
Xylopyranose (15.0 g) was dissolved in allyl alcohol (150 mL) and trifluoromethane sulfonic acid (235 μL) was dropwise added 0° C. The reaction was stirred at 0° C. for 15 minutes and then heated at 80° C. for 4 hours. The reaction solution was then neutralized with triethylamine and evaporated to dryness. Chromatography of the material of silica gel using dichloromethane-methanol (19:1) as eluent provided allyl-xylopyranose (14.9 g).

reactant | Xylopyranose | 15.0 g | OC1[C@H](O)[C@@H](O)[C@H](O)CO1 | C5H10O5
reactant | trifluoromethane sulfonic acid | 235 μL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | allyl alcohol | 150 mL | C(C=C)O | C3H6O
product | allyl-xylopyranose | 14.9 g | C(C=C)C1(O)[C@H](O)[C@@H](O)[C@H](O)CO1 | C8H14O5
